2129-07-04 08:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Central line placement
   > NE started
   Allergies:
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2129-7-4**] 06:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-4**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 108 (108 - 123) bpm
   BP: 86/51(58) {82/41(51) - 106/75(80)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             4,100 mL
   PO:
             TF:
   IVF:
   2,100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    385 mL
   Urine:
   25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,715 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Other labs: Lactic Acid:2.7 mmol/L
   CXR [**7-3**] to [**7-4**]:  right IJ line in good position, increasing evidence
   of volume overload.
   CT Abd pelv: [**2129-7-4**]
   1. enlargement of left kidney with heterogeneous enhancement,
   perinephric and
   periureteral stranding, likely due to infection. clinical correlation
   recommended. no hydro. suprapubic catheter in place.
   2. no bowel obstruction. mild stranding along right colon where there
   may be
   possible diverticulum. possible focal diverticulitis vs non-specific
   colitis.
   3. sclerosis of right ischial tuberosity with adjacent sinus tract
   similar to
   11/[**2128**].
   4. splenomegaly unchanged.
   Assessment and Plan
   68 yoM w/ C4-C5 quadraplegia presents w/ mental status changes [**2-21**]
   pyleonephritis and septic physiology
   > Sepsis: Likely source is left pyelonephritis with + UA.  Started on
   vanc / zosyn in the ER.  Previous culture data is remote (5 years ago)
   but revealed pseudomonas sensitive to cipro and zosyn but MIC was
   high.  MIC for meropenem was 4.  Pseudomonas was sensitive to
   aminoglycosides.    Other potential sources include sacral decub ulcers
   and ? of colitis on CT abd.
   - NE for MAP > 65 mmHg, follow UOP > 0.5 cc/kg/hr
   - will treat with vanc and gent x 1 dose, will d/w ID in the a.m.
   appropriate coverage while awaiting culture results
   - Add flagyl if no anaerobic coverage on above.
   -f/u urine and blood culture
   -change suprapubic catheter
   -repeat lactate, check mixed venous O2 sat
   - place arterial line
   - f/u final; read on Abd/pelv CT
   > Altered mental status: elevated ammonia level in the setting of ETOH
   related cirrhosis complicated by septic physiology
   - check ABG (potential for increased CO2 production in setting of
   sepsis)
   > Quadraplegia: continue home bowel regimen and home baclofen, hold
   keflex while on vanc zosyn.
   -continue ultram, hold standing tylenol to prevent masking of fever
   -continue home vitamins and valium qhs.
    > Hyponatremia: likely to be [**2-21**] hypovolemia (especially  with low
   Cl). Will recheck electrolytes now and if still low consider urine
   lytes and urine osm for further eval.
   > DM: diet controlled.
   -admission BG 303, QACHS FS and HISS
   > Ischial wound: followed by plastic surgery
   -followed by plastic surgery, d/w plastic surgery
   - wet to dry dressings [**Hospital1 **] until d/w plastic surgery and wound care
   nurse
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-7-4**] 04:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-07-05 06:28:00 Physician Resident Progress Note
24 Hour Events:
 MULTI LUMEN - START [**2129-7-4**] 08:26 AM
   -GPC in [**1-23**] BCx  and GNR 1/4 bottles from the ED, surveillance cultures
   added to am labs
   -Plastics consult initiated
   -Move to Kinair bed
   -Pressors started, but UOP improved with fluid. Able to taper pressors
   to off overnight.
   Allergies:
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-7-4**] 08:23 PM
   Meropenem - [**2129-7-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-5**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 91 (74 - 113) bpm
   BP: 99/62(71) {86/40(55) - 160/127(133)} mmHg
   RR: 28 (11 - 28) insp/min
   SpO2: 97% on 2 L NC
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (2 - 18)mmHg
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                  7,451 mL
                                                                    856 mL
   PO:
   TF:
   IVF:
                                                                  5,451 mL
                                                                    856 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    315 mL
   Urine:
                                                                    980 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,111 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   VITAL SIGNS:  HR 117  BP 96/55   O2 97% on 2L NC
   GEN: NAD, AOx2 (aware of person and place, year is [**2129**] unsure of month
   / date)
   HEENT: MM dry, JVP flat
   CHEST: CTAB anteriorly and laterally
   CV:, regular rhythm, no m/r/g
   ABD: soft, moderately distended, + BS, no fluid wave
   EXT: WWP, no c/c/e, 2+ DP and PT pulses
   NEURO: Upper ext contractures, slight sensation intact in abdomen and
   back, EOMI, PERRL, AOx2.  exam c/w Quadraplegia- level C4-C5
   Labs / Radiology
   62 K/uL
   9.8 g/dL
   136 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.8 mEq/L
   14 mg/dL
   112 mEq/L
   137 mEq/L
   29.0 %
   3.7 K/uL
        [image002.jpg]
                             [**2129-7-4**]  09:53 AM
                             [**2129-7-5**]  04:26 AM
   WBC
   11.5
   3.7
   Hct
   35.0
   29.0
   Plt
   71
   62
   Cr
   0.8
   0.6
   Glucose
   226
   136
   Other labs: PT / PTT / INR:15.7/38.7/1.4, Fibrinogen:464 mg/dL, Lactic
   Acid:1.9 mmol/L
[**2129-7-3**] 11:00 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM NEGATIVE ROD(S).
   Anaerobic Bottle Gram Stain (Final [**2129-7-4**]):
      GRAM NEGATIVE ROD(S).
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 19:55 [**2129-7-4**].
[**2129-7-4**] 12:10 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2129-7-4**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 15:55 [**2129-7-4**].
   Anaerobic Bottle Gram Stain (Final [**2129-7-5**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
      GRAM NEGATIVE ROD(S).
   [**7-4**] UCX pending
   [**7-4**] Stool
 c. diff negative
   [**7-4**] BCx
 pending
   [**7-5**] BCx
 pending
   Assessment and Plan
   68 yoM w/ C4-C5 quadraplegia presents w/ mental status changes and
   tachycardia found to have pyleonephritis.
   # Sepsis: the patients presenting symptoms were tachycardia and mental
   status changes. He has a suprapubic catheter and is currently
   presenting with a + u/a, pyleonephritis on CT scan of the L kidney
   without any obstruction.  Started on vanc / zosyn in the ER.  Previous
   culture data is remote (5 years ago) but revealed pseudomonas sensitive
   to cipro and zosyn but MIC was high.  MIC for meropenem was 4.
   Pseudomonas was sensitive to aminoglycosides.  D/C
ed pressors this AM.
   - treat with vanco and meropenem given positive Bcx
   - f/u urine and blood culture, including susceptibilities and ID of org
   - surveillance cultures
   - resend UA
   - monitor BP
   - repeat CBC/diff in AM
   - consider echo
   # Anemia: may be secondary to dilution
   - check Hct at 5 PM
   - consider transfusion if hypotensive
   - add on anemia labs
   - active T&S
   - guiaic stools
   # Altered mental status: now improved, likely due to infection. Monitor
   .
   # Quadraplegia: continue home bowel regimen and home baclofen, hold
   keflex while on vanc zosyn.
   -continue ultram, hold standing tylenol to prevent masking of fever
   -continue home vitamins and valium qhs.
   # DM: diet controlled.
   -admission BG 303, QACHS FS and HISS
   - uptitrate SSI
   # Ischial wound: followed by plastic surgery
   -appreciate plastic [**Doctor First Name 458**] recs
 wet to dry [**Hospital1 **] dressings, and vac
   dressing on discharge
   -had vac prior to transport but sent w/o vac dressing, wet to dry
   dressings [**Hospital1 **] until d/w plastic surgery and wound care nurse
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-7-4**] 04:30 AM
   Multi Lumen - [**2129-7-4**] 08:26 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: po PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2129-07-05 07:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2129-7-4**] 08:26 AM
   Allergies:
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2129-7-4**] 06:04 AM
   Vancomycin - [**2129-7-4**] 08:23 PM
   Meropenem - [**2129-7-5**] 06:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-5**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 76 (74 - 113) bpm
   BP: 110/49(76) {88/40(55) - 160/127(133)} mmHg
   RR: 25 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (2 - 18)mmHg
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                  7,451 mL
                                                                  1,456 mL
   PO:
   TF:
   IVF:
                                                                  5,451 mL
                                                                  1,456 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    375 mL
   Urine:
                                                                    980 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,111 mL
                                                                  1,081 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand, contracted
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   62 K/uL
   136 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.8 mEq/L
   14 mg/dL
   112 mEq/L
   137 mEq/L
   29.0 %
   3.7 K/uL
        [image002.jpg]
                             [**2129-7-4**]  09:53 AM
                             [**2129-7-5**]  04:26 AM
   WBC
   11.5
   3.7
   Hct
   35.0
   29.0
   Plt
   71
   62
   Cr
   0.8
   0.6
   Glucose
   226
   136
   Other labs: PT / PTT / INR:15.7/38.7/1.4, Fibrinogen:464 mg/dL, Lactic
   Acid:1.9 mmol/L
   Assessment and Plan
   68 yoM w/ C4-C5 quadraplegia presents w/ mental status changes [**2-21**]
   pyleonephritis and septic physiology
   > Sepsis: Likely source is left pyelonephritis with + UA.  Started on
   vanc / zosyn in the ER.  Previous culture data is remote (5 years ago)
   but revealed pseudomonas sensitive to cipro and zosyn but MIC was
   high.  MIC for meropenem was 4.  Pseudomonas was sensitive to
   aminoglycosides.    Other potential sources include sacral decub ulcers
   and ? of colitis on CT abd.
   - NE for MAP > 65 mmHg, follow UOP > 0.5 cc/kg/hr
   - will treat with vanc and gent x 1 dose, will d/w ID in the a.m.
   appropriate coverage while awaiting culture results
   - Add flagyl if no anaerobic coverage on above.
   -f/u urine and blood culture
   -change suprapubic catheter
   -repeat lactate, check mixed venous O2 sat
   - place arterial line
    > Altered mental status: elevated ammonia level in the setting of ETOH
   related cirrhosis complicated by septic physiology
   - check ABG (potential for increased CO2 production in setting of
   sepsis)
   > Quadraplegia: continue home bowel regimen and home baclofen, hold
   keflex while on vanc zosyn.
   -continue ultram, hold standing tylenol to prevent masking of fever
   -continue home vitamins and valium qhs.
    > Hyponatremia: likely to be [**2-21**] hypovolemia (especially  with low
   Cl). Will recheck electrolytes now and if still low consider urine
   lytes and urine osm for further eval.
   > DM: diet controlled.
   -admission BG 303, QACHS FS and HISS
   > Ischial wound: followed by plastic surgery
   -followed by plastic surgery, d/w plastic surgery
   - wet to dry dressings [**Hospital1 **] until d/w plastic surgery and wound care
   nurse
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-7-4**] 04:30 AM
   Multi Lumen - [**2129-7-4**] 08:26 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-07-06 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - plastics recs: wet to dry dressing [**Hospital1 **] to wound, resume wound vac at
   discharge
   - asked lab for [**Last Name (un) **]/ID of cultures
   - SSI tightened
   - advanced diet
   -Had BM
   Allergies:
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2129-7-4**] 06:04 AM
   Vancomycin - [**2129-7-5**] 08:00 PM
   Meropenem - [**2129-7-6**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-6**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 86 (79 - 114) bpm
   BP: 129/109(113) {87/36(51) - 150/109(157)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (7 - 16)mmHg
   Total In:
                                                                  3,196 mL
                                                                    267 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    260 mL
   Urine:
                                                                  1,170 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,026 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   VITAL SIGNS:  HR 117  BP 96/55   O2 97% on 2L NC
   GEN: NAD, AOx2 (aware of person and place, year is [**2129**] unsure of month
   / date)
   HEENT: MM dry, JVP flat
   CHEST: CTAB anteriorly and laterally
   CV:, regular rhythm, no m/r/g
   ABD: soft, moderately distended, + BS, no fluid wave
   EXT: WWP, no c/c/e, 2+ DP and PT pulses
   NEURO: Upper ext contractures, slight sensation intact in abdomen and
   back, EOMI, PERRL, AOx2.  exam c/w Quadraplegia- level C4-C5
   Labs / Radiology
   48 K/uL
   9.5 g/dL
   185 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   15 mg/dL
   110 mEq/L
   139 mEq/L
   29.5 %
   2.8 K/uL
        [image002.jpg]
                             [**2129-7-4**]  09:53 AM
                             [**2129-7-5**]  04:26 AM
                             [**2129-7-5**]  04:40 PM
                             [**2129-7-6**]  03:20 AM
   WBC
   11.5
   3.7
   2.8
   Hct
   35.0
   29.0
   29.9
   29.5
   Plt
   71
   62
   48
   Cr
   0.8
   0.6
   0.7
   Glucose
   [**Telephone/Fax (3) 9335**]
   Other labs: PT / PTT / INR:15.7/38.7/1.4, Differential-Neuts:64.0 %,
   Band:0.0 %, Lymph:26.0 %, Mono:6.0 %, Eos:2.0 %, Fibrinogen:464 mg/dL,
   Lactic Acid:1.9 mmol/L
   Assessment and Plan
   68 yoM w/ C4-C5 quadraplegia presents w/ mental status changes and
   tachycardia found to have pyleonephritis.
   # Sepsis: the patients presenting symptoms were tachycardia and mental
   status changes. He has a suprapubic catheter and is currently
   presenting with a + u/a, pyleonephritis on CT scan of the L kidney
   without any obstruction.  Started on vanc / zosyn in the ER.  Previous
   culture data is remote (5 years ago) but revealed pseudomonas sensitive
   to cipro and zosyn but MIC was high.  MIC for meropenem was 4.
   Pseudomonas was sensitive to aminoglycosides.  D/C
ed pressors this AM.
   - treat with vanco and meropenem given positive Bcx
   - f/u urine and blood culture, including susceptibilities and ID of org
   - surveillance cultures
   - resend UA
   - monitor BP
   - repeat CBC/diff in AM
   - consider echo
   # Anemia: may be secondary to dilution
   - check Hct at 5 PM
   - consider transfusion if hypotensive
   - add on anemia labs
   - active T&S
   - guiaic stools
   # Altered mental status: now improved, likely due to infection. Monitor
   .
   # Quadraplegia: continue home bowel regimen and home baclofen, hold
   keflex while on vanc zosyn.
   -continue ultram, hold standing tylenol to prevent masking of fever
   -continue home vitamins and valium qhs.
   # DM: diet controlled.
   -admission BG 303, QACHS FS and HISS
   - uptitrate SSI
   # Ischial wound: followed by plastic surgery
   -appreciate plastic [**Doctor First Name 458**] recs
 wet to dry [**Hospital1 **] dressings, and vac
   dressing on discharge
   -had vac prior to transport but sent w/o vac dressing, wet to dry
   dressings [**Hospital1 **] until d/w plastic surgery and wound care nurse
   ICU Care
   Nutrition:
   Glycemic Control:  HISS, NPH
   Lines:
   18 Gauge - [**2129-7-4**] 04:30 AM
   Multi Lumen - [**2129-7-4**] 08:26 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: callout

2129-07-06 11:06:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   sepsis: GNR, GPC: pyelo from SPC, colitis, osteo
   24 Hour Events:
   Off pressors, on abx, mental status better
   Seen by plastics, wound on vac, dsg changes
   had BM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2129-7-4**] 06:04 AM
   Meropenem - [**2129-7-6**] 06:00 AM
   Vancomycin - [**2129-7-6**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-6**] 04:00 AM
   Pantoprazole (Protonix) - [**2129-7-6**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-6**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 89 (86 - 114) bpm
   BP: 117/58(73) {92/36(57) - 150/109(157)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (7 - 16)mmHg
   Total In:
                                                                  3,196 mL
                                                                  1,217 mL
   PO:
                                                                    500 mL
                                                                    390 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    827 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    370 mL
   Urine:
                                                                  1,170 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,026 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand, contracted
   Skin:  Warm
   Neurologic: Attentive, marked improvement in MS, conversant.   B/l
   contractures
   Labs / Radiology
   9.5 g/dL
   48 K/uL
   185 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   15 mg/dL
   110 mEq/L
   139 mEq/L
   29.5 %
   2.8 K/uL
        [image002.jpg]
                             [**2129-7-4**]  09:53 AM
                             [**2129-7-5**]  04:26 AM
                             [**2129-7-5**]  04:40 PM
                             [**2129-7-6**]  03:20 AM
   WBC
   11.5
   3.7
   2.8
   Hct
   35.0
   29.0
   29.9
   29.5
   Plt
   71
   62
   48
   Cr
   0.8
   0.6
   0.7
   Glucose
   [**Telephone/Fax (3) 9335**]
   Other labs: PT / PTT / INR:15.7/38.7/1.4, Differential-Neuts:64.0 %,
   Band:0.0 %, Lymph:26.0 %, Mono:6.0 %, Eos:2.0 %, Fibrinogen:464 mg/dL,
   Lactic Acid:1.9 mmol/L
   Microbiology: GNR and GPC in blood, ID/[**Last Name (un) **] pend
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
   68 yoM w/ C4-C5 quadraplegia presents w/ polymicrobial sepsis.
   > bacteremia/Sepsis: Now with GNR and GPC in blood, wtill with pyelo as
   potential source as well as pre-exisiting fistula. HD stable.
   - Will cont to follow closely and repeat surveillance cultures.
   - Vanco and meropenem (hx of pseudomonas with high MIC for pip-taz),
   follow sensitivities
   - f/u clx, If further clx positive then TTE
   - F/u plastics recs.
   > Quadraplegia: continue home bowel regimen and home baclofen, hold
   keflex while on vanc zosyn.
   -continue ultram, hold standing tylenol to prevent masking of fever
   -continue home vitamins and valium qhs.
   > Pancytopenia: may be due to antibiotics or sepsis or volume overload:
   follow closely.
   > DM: diet controlled.
   -admission BG 303, QACHS FS and HISS
   > Ischial wound: followed by plastic surgery
    > Advance diet as tolerated (he needs his teeth)
   Additional issues per ICU resident note.
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-7-4**] 04:30 AM
   Multi Lumen - [**2129-7-4**] 08:26 AM, picc consult
   Prophylaxis:
   DVT: Boots, d/c heparin, chornic quad with low platelets
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU, to floor today
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.